US07365061B2
Part III: Trans 3-amino-2-carbo-t-butoxymethoxy-1,2,3,4-tetrahydronaphthalene
To a solution of trans 3-azido-2-carbo-t-butoxymethoxy-1,2,3,4-tetrahydronaphthalene (750 mg, 2.47 mmol) in methanol (10 mL) at room temperature was added 20% palladium on carbon (60 mg). The resulting mixture was stirred under a hydrogen balloon. After 16 h, the reaction mixture was filtered through a plug of Celite® and the filtrate was concentrated under vacuum to obtain the title compound (730 mg, 100%). 1H NMR (400 MHz, CDCl3) δ 7.04-7.17 (m, 4H), 4.25 (d, J=16.7 Hz, 1H), 4.11 (d, J=16.7 Hz, 1H), 4.68 (m, 1H), 3.32-3.47 (m, 2H), 3.25 (dd, J=6.7, 16.5 Hz, 1H), 3.02 (m, 1H), 2.85 (dd, J=10.7, 16.5 Hz, 1H), 1.49 (s, 9H).

reactant | trans 3-azido-2-carbo-t-butoxymethoxy-1,2,3,4-tetrahydronaphthalene | 2.47 mmol, 750 mg | N(=[N+]=[N-])[C@H]1[C@@H](CC2=CC=CC=C2C1)OCC(=O)OC(C)(C)C | C16H21N3O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | Trans 3-amino-2-carbo-t-butoxymethoxy-1,2,3,4-tetrahydronaphthalene | 730 mg, 100% | N[C@H]1[C@@H](CC2=CC=CC=C2C1)OCC(=O)OC(C)(C)C | C16H23NO3
